### PR TITLE
chore: Move `Set.bdd` to the `ForMathlib` directory and redefine `HasDensity` in terms of it

### PR DESCRIPTION
**Pull request by Paul-Lez**

### CODE REVIEW

File: FormalConjectures/ForMathlib/Data/Nat/Bdd.lean [hunk 1]
```diff
@@ -0,0 +1,22 @@
...
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+
+import Mathlib
+
+/-- If `A ⊆ ℕ` then `A.bdd N` is the finset `A ∩ [1, ..., N]`. -/
+noncomputable def Set.bdd (A : Set ℕ) [DecidablePred (· ∈ A)] (N : ℕ) : Finset ℕ :=
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Data/Nat/Bdd.lean]: This has some relation to the numerator in the definition of `Set.HasDensity`. I think my suggestions would be:
- Be consistent across both (so I think I'd go for the intersection and `ncard` definition here)
- Abstract this definition to the level of generality in `Set.HasDensity`
- Are there any cases in which `{1, ..., N}` is really needed rather than the intersection with `{0, 1, ..., N}` (I.e., non-asymptotic questions? If so, we could introduct `Set.bdd lower upper` and then use `Set.bdd 0 upper` in the defn of `Set.HasDensity`

Comment (Paul-Lez) [reply FormalConjectures/ForMathlib/Data/Nat/Bdd.lean]: I think going for the `Finset` version has the nice consequence that we get finiteness for free.

Comment (smmercuri) [reply FormalConjectures/ForMathlib/Data/Nat/Bdd.lean]: Yes that might be preferred. I think my comments still stand though and this should go in `Density.lean` at that level of generality; and maybe leave a TODO for a future PR to refactor `Set.HasDensity` to use `Set.bdd`

Comment (smmercuri) [inline FormalConjectures/ForMathlib/Data/Nat/Bdd.lean]: Also I think `noncomputable` can be removed here?

**Comment by smmercuri** [comment]
Note to update this PR to refactor https://github.com/google-deepmind/formal-conjectures/pull/615 and #631 as well

File: FormalConjectures/ForMathlib/Data/Nat/Bdd.lean (hunk 1 above)
Comment (Paul-Lez) [reply FormalConjectures/ForMathlib/Data/Nat/Bdd.lean]: Done

File: FormalConjectures/ForMathlib/Data/Set/Bdd.lean [hunk 2]
```diff
@@ -0,0 +1,66 @@
...
+
+variable {β : Type*} [Preorder β]
+variable (S : Set β) (b : β) (A : Set β := .univ)
+
+/--
+Given a set `S` and an element `b` in an order `β`, where all intervals bounded above are finite,
+`Set.bdd S b A` is the intersection `S ∩ A ∩ Iio b`.
+-/
+@[inline]
+abbrev Set.bdd (S : Set β) (b : β) (A : Set β := .univ) : Set β :=
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Data/Set/Bdd.lean]: It seems to me now that `Set.bdd` is not quite the right name for this since there's a (potentially infinite) unbounded left side to it. Perhaps `Set.bddAbove`, although that's confusing with the already existing `BddAbove`.

Comment (smmercuri) [reply FormalConjectures/ForMathlib/Data/Set/Bdd.lean]: I'm also unsure about the intersection with `A` being included here, feels somewhat specialised. That intersection could be left in `Set.HasDensity`

Comment (smmercuri) [reply FormalConjectures/ForMathlib/Data/Set/Bdd.lean]: Would something like `Set.bdd S l u := S ∩ Set.Ioo l u` work? Then the current definition is given by `Set.bdd S ⊥ u`?

Comment (smmercuri) [reply FormalConjectures/ForMathlib/Data/Set/Bdd.lean]: We could also do some variants of this to capture left/right open, as `Set.oobdd`, `Set.cobdd`, `Set.ocbdd`, `Set.ccbdd` (but possibly with better names)

Comment (Paul-Lez) [reply FormalConjectures/ForMathlib/Data/Set/Bdd.lean]: Done

File: FormalConjectures/ForMathlib/Data/Set/Bdd.lean [hunk 3]
```diff
@@ -0,0 +1,67 @@
...
+-/
+
+import Mathlib.Order.Interval.Finset.Defs
+
+variable {β : Type*} [Preorder β]
+variable (S : Set β) (a b : β)
+
+/--
+Given a set `S` and an element `b` in an order `β`, where all intervals bounded above are finite,
+`Set.bdd S b A` is the intersection `S ∩ A ∩ Iio b`.
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Data/Set/Bdd.lean]:
```suggestion
Given a set `S` and an element `b` in an order `β`,
`Set.interIio S b A` is the intersection `S ∩ Iio b`.
```

File: FormalConjectures/ForMathlib/Data/Set/Bdd.lean [hunk 4]
```diff
@@ -0,0 +1,67 @@
...
+-/
+@[inline]
+abbrev Set.interIio (S : Set β) (b : β) : Set β :=
+  S ∩ Set.Iio b
+
+/--
+Given a set `S` and an element `b` in an order `β` with bottom element `⊥`, where all intervals
+bounded above are finite, `Set.bddPos S b A` is the intersection `S ∩ A ∩ Ioc ⊥ b`.
+-/
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Data/Set/Bdd.lean]:
```suggestion
/--
Given a set `S` and elements `a and `b` in an order `β`, `Set.interIcc S a b` is the intersection `S  ∩ Icc a b`.
-/
```

File: FormalConjectures/ErdosProblems/245.lean [hunk 5]
```diff
@@ -26,11 +26,7 @@ namespace Erdos245
 
 open Filter Erdos245
 
-open scoped Pointwise Topology
-
-/-- If `A` is a set of natural numbers and `N : ℕ`, then `bdd A N` is the
-set `{ n ∈ A | 1 ≤ n ≤ N }`. -/
-private def Set.bdd (A : Set ℕ) (N : ℕ) := A ∩ Set.Icc 1 N
+open scoped Pointwise Topology Classical
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/245.lean]: I think `Classical` can be removed here?

File: FormalConjectures/ErdosProblems/245.lean [hunk 6]
```diff
@@ -45,8 +41,8 @@ The answer is yes, proved by Freiman [Fr73].
 -/
 @[category research solved, AMS 5 11]
 theorem erdos_245 :
-    (∀ (A : Set ℕ), A.Infinite → Tendsto (fun N => (A.bdd N |>.ncard : ℝ) / N) atTop (𝓝 0) →
-    3 ≤ limsup (fun N => ((A + A).bdd N |>.ncard : EReal) / (A.bdd N).ncard) atTop) ↔ answer(True) := by
+    (∀ (A : Set ℕ), A.Infinite → Tendsto (fun N => (A.interIcc 1 ⌊N⌋₊ |>.ncard : ℝ) / N) atTop (𝓝 0) →
+    3 ≤ limsup (fun (N : ℝ) => ((A + A).interIcc 1 ⌊N⌋₊ |>.ncard : EReal) / (A.interIcc 1 ⌊N⌋₊).ncard) atTop) ↔ answer(True) := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/245.lean]: some re-styling to keep within 100 chars
```suggestion
    (∀ (A : Set ℕ), A.Infinite → 
      atTop.Tendsto (fun N ↦ (A.interIcc 1 ⌊N⌋₊ |>.ncard : ℝ) / N) (𝓝 0) →
      3 ≤ atTop.limsup 
        fun N : ℝ ↦ ((A + A).interIcc 1 ⌊N⌋₊ |>.ncard : EReal) / (A.interIcc 1 ⌊N⌋₊).ncard) ↔ 
    answer(True) := by
```

File: FormalConjectures/ErdosProblems/245.lean [hunk 7]
```diff
@@ -59,10 +55,10 @@ as $N\to\infty$.
 -/
 @[category research solved, AMS 5 11]
 theorem erdos_245.variants.exists_limit (A : Set ℕ) (h_inf : A.Infinite)
-    (hf : Tendsto (fun N => (A.bdd N |>.ncard : ℝ) / N) atTop (𝓝 0)) :
+    (hf : Tendsto (fun N => (A.interIcc 1 ⌊N⌋₊ |>.ncard : ℝ) / N) atTop (𝓝 0)) :
     -- Use `EReal` to disinguish infinite limit from other types of non-existence
     ∃ (α : EReal),
-      Tendsto (fun N => (((A + A).bdd N |>.ncard : EReal) / ((A.bdd N).ncard) : EReal)) atTop (𝓝 α) := by
+      Tendsto (fun (N : ℝ) => (((A + A).interIcc 1 ⌊N⌋₊ |>.ncard : EReal) / ((A.interIcc 1 ⌊N⌋₊).ncard) : EReal)) atTop (𝓝 α) := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/245.lean]: to keep within 100 chars
```suggestion
      atTop.Tendsto 
        (fun N : ℝ ↦ ((A + A).interIcc 1 ⌊N⌋₊ |>.ncard : EReal) / (A.interIcc 1 ⌊N⌋₊).ncard) 
        (𝓝 α) := by
```

File: FormalConjectures/ErdosProblems/245.lean [hunk 8]
```diff
@@ -74,8 +70,8 @@ $$
 -/
 @[category research solved, AMS 5 11]
 theorem erdos_245.variants.two (A : Set ℕ) (h_inf : A.Infinite)
-    (hf : Tendsto (fun N => (A.bdd N |>.ncard : ℝ) / N) atTop (𝓝 0)) :
-    2 ≤ limsup (fun N => ((A + A).bdd N |>.ncard : EReal) / (A.bdd N).ncard) atTop := by
+    (hf : Tendsto (fun N => (A.interIcc 1 ⌊N⌋₊ |>.ncard : ℝ) / N) atTop (𝓝 0)) :
+    2 ≤ limsup (fun (N : ℝ) => ((A + A).interIcc 1 ⌊N⌋₊ |>.ncard : EReal) / (A.interIcc 1 ⌊N⌋₊).ncard) atTop := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/245.lean]:
```suggestion
    (hf : atTop.Tendsto (fun N ↦ (A.interIcc 1 ⌊N⌋₊ |>.ncard : ℝ) / N) (𝓝 0)) :
    2 ≤ atTop.limsup 
      fun N : ℝ ↦ ((A + A).interIcc 1 ⌊N⌋₊ |>.ncard : EReal) / (A.interIcc 1 ⌊N⌋₊).ncard := by
```

File: FormalConjectures/ErdosProblems/442.lean [hunk 9]
```diff
@@ -24,6 +24,8 @@ open scoped Topology
 
 namespace Erdos442
 
+open Filter Classical
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/442.lean]: I think `Classical` can be removed here too

File: FormalConjectures/ErdosProblems/442.lean [hunk 10]
```diff
@@ -37,25 +39,22 @@ def Real.maxLogOne (x : ℝ) := max x.log 1
 
 namespace Set
 
-variable (A : Set ℕ) (x : ℝ)
-
-local instance : Fintype <| ↑(A ∩ Set.Icc 1 ⌊x⌋₊) :=
-  Set.finite_Icc 1 ⌊x⌋₊ |>.inter_of_right A |>.fintype
+#check Finite
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/442.lean]: Guess this was left in by accident?

File: FormalConjectures/ErdosProblems/899.lean [hunk 11]
```diff
@@ -24,16 +24,12 @@ import FormalConjectures.Util.ProblemImports
 
 open Filter
 
-open scoped Pointwise Topology
+open scoped Pointwise Topology Classical
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/899.lean]:
```suggestion
open scoped Pointwise Topology
```

File: FormalConjectures/ErdosProblems/442.lean [hunk 12]
```diff
@@ -24,6 +24,8 @@ open scoped Topology
 
 namespace Erdos442
 
+open Filter
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/442.lean]: This can be removed as well, there's already and `open Filter` below

File: FormalConjectures/ErdosProblems/245.lean (hunk 5 above)
Comment (smmercuri) [reply FormalConjectures/ErdosProblems/245.lean]: This one is still here

**Comment by Paul-Lez** [comment]
@smmercuri I think it would be nice to merge this since I suspect this will useful for other PRs (and removing redundant namespaces can probably wait for later PRs?)

File: FormalConjectures/ErdosProblems/245.lean (hunk 5 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/245.lean]: By the way, you can add all your comments in a single review (it makes it easier for me to view the review suggestions in one go :))

**Comment by smmercuri** [comment]
> @smmercuri I think it would be nice to merge this since I suspect this will useful for other PRs (and removing redundant namespaces can probably wait for later PRs?)

Yes, LGTM now!
